US07157489B2
After reaction step (a), the resulting amine (1 equiv.), 3,5-dihydroxybenzoic acid (1 equiv.), EDCI (1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride) (1.2 equiv.), HOBt (1-hydroxybenzotriazole hydrate) (1.2 equiv.), and Et3N (4 equiv.) in CH2Cl2.DMF (9:1) were stirred for 12 hours at room temperature. Then the reaction mixture was diluted with EtOAc and the organic layer washed with brine. The combined organic layer was dried over anhydrous Na2SO4 and concentrated. Purification of the resulting crude product by flash silica gel chromatography provided corresponding 3,5-dihydroxybenzamide derivative. The above derivative (1 equiv.) and active carbonate 4 (1.1 equiv.) in THF were stirred under hydrogen atmosphere in presence of Pd—C (10%) for 12 hours at room temperature. Then the reaction mixture was filtered and the organic layer washed with brine. The combined organic layer was dried over anhydrous Na2SO4 and concentrated. Purification of the resulting crude product by flash silica gel chromatography provided compound 134 as a solid.

reactant | 3,5-dihydroxybenzoic acid | 1 equiv. | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | EDCI | 1.2 equiv. | Cl.CN(CCCN=C=NCC)C
reactant | HOBt | 1.2 equiv. | O.ON1N=NC2=C1C=CC=C2
reactant | Et3N | 4 equiv. | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-dihydroxybenzamide | OC=1C=C(C(=O)N)C=C(C1)O | C7H7NO3
